US07635711B2
In a beaker charged with 15 mL of concentrated hydrochloric acid was added 1 g (5.8 mmol) of 4-chloro-2-nitroaniline. The mixture stirred for 30 minutes at room temperature. The mixture was then chilled (−5° C.) and 400 mg (5.8 mmol) of sodium nitrite in 10 mL of water was added in several portions while maintaining the temperature between −5° C. and 10° C. After 30 minutes, the diazonium salt mixture was added in several portions to a chilled (ice-water bath) solution of 115 mg (1.16 mmol) of copper (I) chloride in 25 mL of acetic acid saturated with sulfur dioxide gas. The mixture was allowed to warm to room temperature. After 40 minutes, the mix was poured on to ice and stirred until the ice was melted. The bright yellow solid was collected by filtration, washed with several portions of water, and dried to afford 1.03 g (69%) of 2-chloro-4-nitrobenzenesulfonyl chloride.

reactant | hydrochloric acid | 15 mL | Cl | ClH
reactant | 4-chloro-2-nitroaniline | 5.8 mmol, 1 g | ClC1=CC(=C(N)C=C1)[N+](=O)[O-] | C6H5ClN2O2
reactant | sodium nitrite | 5.8 mmol, 400 mg | N(=O)[O-].[Na+]
reactant | sulfur dioxide | S(=O)=O | O2S
solvent | water | 10 mL | O | H2O
solvent | acetic acid | 25 mL | C(C)(=O)O | C2H4O2
catalyst | copper (I) chloride | 1.16 mmol, 115 mg | [Cu]Cl
product | 2-chloro-4-nitrobenzenesulfonyl chloride | 1.03 g, 69% | ClC1=C(C=CC(=C1)[N+](=O)[O-])S(=O)(=O)Cl | C6H3Cl2NO4S
